US04548932
In 100 ml of acetonitrile are dissolved 2.8 g of tert-butyl 3(S)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate and 7.6 g of ethyl 2-bromo-8-phthalimidooctanoate, and 1.3 g of triethylamine is added to the solution. After heating at 80° C. for 3 days, the reaction solution is concentrated under reduced pressure, diluted with 200 ml of water and extracted with 200 ml of ethyl acetate. The ethyl acetate layer is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Ethyl acetate (10 ml) and oxalic acid (2.8 g) are added to the residue, and 200 ml of petroleum ether is added to the solution. After shaking, the resulting solution is allowed to stand. The supernatant is removed by decantation and 150 ml of water and 200 ml of ethyl acetate are added to the precipitate. The mixture is neutralized with sodium bicarbonate and the ethyl acetate layer is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The oily product is separated and purified by silica gel column chromatography to give 1.5 g of tert-butyl 3(S)-[1(R)-ethoxycarbonyl-7-phthalimidoheptyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate from the first fraction.

reactant | tert-butyl 3(S)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 2.8 g | N[C@H]1COC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C15H20N2O4
reactant | ethyl 2-bromo-8-phthalimidooctanoate | 7.6 g | BrC(C(=O)OCC)CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C18H22BrNO4
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | tert-butyl 3(S)-[1(R)-ethoxycarbonyl-7-phthalimidoheptyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 1.5 g | C(C)OC(=O)[C@@H](CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2COC1=C(N(C2=O)CC(=O)OC(C)(C)C)C=CC=C1 | C33H41N3O8
